US05824691
A mixture of dimethyl 5-(pyrrol-1-yl)isophthalate (1.0 g) and 4-(2-aminoethyl)morpholine (0.65 g) was heated at 120° C. for 2 hours. The residue was purified by column chromatography on silica gel (50 g) with chloroform-methanol (30:1) as an eluent. The fractions containing object product were combined and evaporated in vacuo. The crystalline residue was recrystallized from ethanol-ether to afford N-[2-(morpholin-4-yl)ethyl]-3-methoxycarbonyl-5-(pyrrol-1-yl)benzamide (353 mg).

reactant | dimethyl 5-(pyrrol-1-yl)isophthalate | 1.0 g | N1(C=CC=C1)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C14H13NO4
reactant | 4-(2-aminoethyl)morpholine | 0.65 g | NCCN1CCOCC1 | C6H14N2O
product | N-[2-(morpholin-4-yl)ethyl]-3-methoxycarbonyl-5-(pyrrol-1-yl)benzamide | 353 mg | N1(CCOCC1)CCNC(C1=CC(=CC(=C1)N1C=CC=C1)C(=O)OC)=O | C19H23N3O4
